US08466282B2
2-tert-butyl-4-hexyl-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]pyrimidine-5-carboxamide dihydrochloride
tert-Butyl (3S,5R)-3-{[(2-tert-butyl-4-hexylpyrimidin-5-yl)carbonyl](2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (88.4 mg) was dissolved in 1M hydrogen chloride-ethyl acetate (3 ml), and the mixture was stirred at room temperature for 1.5 hr. The reaction mixture was concentrated to give the object product (62.7 mg).

reactant | tert-Butyl (3S,5R)-3-{[(2-tert-butyl-4-hexylpyrimidin-5-yl)carbonyl](2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 88.4 mg | C(C)(C)(C)C1=NC=C(C(=N1)CCCCCC)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C34H57N5O5
reactant | hydrogen chloride-ethyl acetate | 1M, 3 ml | C(C)(=O)OCC.Cl
product | 2-tert-butyl-4-hexyl-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]pyrimidine-5-carboxamide dihydrochloride | 62.7 mg | Cl.Cl.C(C)(C)(C)C1=NC=C(C(=N1)CCCCCC)C(=O)N([C@@H]1CNC[C@@H](C1)C(=O)N1CCOCC1)CC(C)C | InChI=1S/C29H49N5O3.2ClH/c1-7-8-9-10-11-25-24(19-31-28(32-25)29(4,5)6)27(36)34(20-21(2)3)23-16-22(17-30-18-23)26(35)33-12-14-37-15-13-33;;/h19,21-23,30H,7-18,20H2,1-6H3;2*1H/t22-,23+;;/m1../s1
